US09238656B2
(1S,2S,3R,4R)-3-[6-Chloro-2-(2-methoxy-pyridin-3-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CXXIII)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50.00 mg, 0.1702 mmol), 2-Methoxy-pyridine-3-carbaldehyde (25.7 mg, 0.187 mmol), and Ammonium acetate (26.2 mg, 0.340 mmol) were reacted to produce 8.5 mg (12%) of the title compound. (300 MHz, DMSO-d6) 12.61 (s, 1H), 8.46 (d, J=7.5 Hz, 1H), 8.31 (s, 1H), 7.99 (s, 1H), 7.76 (s, 1H), 7.21 (m, 3H), 6.38 (d, J=19 Hz, 2H), 5.17 (t, J=17 Hz, J=9 Hz, 1H), 4.05 (s, 3H), 2.89 (s, 1H), 2.80 (s, 1H), 2.61 (d, J=9 Hz, 1H), 2.24 (d, J=9 Hz, 1H), 1.39 (d, J=9 Hz, 1H). MS=411 (M+H), HPLC: 2.33 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.1702 mmol, 50.00 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 2-Methoxy-pyridine-3-carbaldehyde | 0.187 mmol, 25.7 mg | COC1=NC=CC=C1C=O | C7H7NO2
reactant | Ammonium acetate | 0.340 mmol, 26.2 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(2-methoxy-pyridin-3-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 8.5 mg, 12% | ClC=1C(=C2C(=NC1)NC(=N2)C=2C(=NC=CC2)OC)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C20H19ClN6O2
